* Pitch Tracker e Bass Synth

* --- INPUT CONDITIONING ---
* 1. Passa-Alto (Taglio ~30Hz) per togliere il "fango" subsonico
C_HP 1 11 470e-9
R_HP 11 0 11k

* 2. Passa-Basso del 3° Ordine (Taglio ~100Hz)
* Stadio 1
R_LP1 11 12 3.3k
C_LP1 12 0 470e-8
* Stadio 2
R_LP2 12 13 3.3k
C_LP2 13 0 470e-9
* Stadio 3
R_LP3 13 14 3.3k
C_LP3 14 0 470e-9
* Stadio 4
R_LP3 14 2 3.3k
C_LP3 2 0 470e-9

Bgain 3 0 V=1000*V2 Rs=1

*X1 3 4 PITCH thr=0.05 smooth=.7
X1 3 4 FFTPITCH size=4096
*R_SMOOTH 4 9 47k
*C_SMOOTH 9 0 220e-9
*B_SNAP 10 0 V=clamp( (V4 > 1280 ? V4/32 : (V4 > 640 ? V4/16 : (V4 > 320 ? V4/8 : (V4 > 160 ? V4/4 : (V4 > 80 ? V4/2 : (V4 < 20 ? V4*4 : (V4 < 40 ? V4*2 : V4))))))), 40, 80) Rs=1
*B_SNAP 10 0 V=(V4 > 320 ? V4/8 : (V4 > 160 ? V4/4 : V4 )) Rs=1
X2 4 5 INTEGRATOR

*B_ENV 8 0 V=0.8+0.2*sin(2*3.1415*t*8) Rs=1000

*B1 6 0 V=sin(2*3.14159*V5) Rs=1
B1 6 0 V=sgn(sin(2*3.14159*V5)) Rs=1
*B1 6 0 V=(V5-floor(V5+0.5)) Rs=1
*B1 6 0 V=4*V8*sin(2*3.14159*V5 + 0.5*sin(2*3.14159*V5*2.5))
*B1 6 0 V=tanh(V8*sin(2*3.14159*V5)*2) Rs=1
*B1 6 0 V=max(-0.8, min(0.8, 2*sin(2*3.14159*V5))) Rs=1
*B1 6 0 V=5*V8*clamp(2 * (V5 - floor(V5 + 0.5)), -1, 1) Rs=1



.input 1
.output 6
.probe pitch.csv V(1) V(3)