* Pitch Tracker e Bass Synth

* --- INPUT CONDITIONING ---
* 1. Passa-Alto (Taglio ~30Hz) per togliere il "fango" subsonico
C_HP 1 11 470e-9
R_HP 11 0 11k

* 2. Passa-Basso del 3° Ordine (Taglio ~100Hz)
* Stadio 1
R_LP1 11 12 3.3k
C_LP1 12 0 470n
* Stadio 2
R_LP2 12 13 3.3k
C_LP2 13 0 470n
* Stadio 3
R_LP3 13 14 3.3k
C_LP3 14 0 470n
* Stadio 4
R_LP3 14 2 3.3k
C_LP3 2 0 470n

Bgain 3 0 V="1000*V(2)" Rs=1

*X1 3 4 PITCH thr=0.05 smooth=.7
*X1 3 4 PITCH2 thr=0.2 nsig=200 nfreq=100
X1 3 4 FFTPITCH size=4096
*R_SMOOTH 4 9 47k
*C_SMOOTH 9 0 220e-9
*B_SNAP 10 0 V="clamp( (V(4) > 1280 ? V(4)/32 : (V(4) > 640 ? V(4)/16 : (V(4) > 320 ? V(4)/8 : (V(4) > 160 ? V(4)/4 : (V(4) > 80 ? V(4)/2 : (V(4) < 20 ? V(4)*4 : (V(4) < 40 ? V(4)*2 : V(4)))))))), 40, 80)" Rs=1
*B_SNAP 10 0 V="(V(4) > 320 ? V(4)/8 : (V(4) > 160 ? V(4)/4 : V(4) ))" Rs=1
X2 4 5 INTEGRATOR

*B_ENV 8 0 V="0.8+0.2*sin(2*3.1415*t*8)" Rs=1000

*B1 6 0 V="sin(2*3.14159*V(5))" Rs=1
*B1 6 0 V="sgn(sin(2*3.14159*V(5)))" Rs=1
B1 6 0 V="(V(5)-floor(V(5)+0.5))" Rs=1
*B1 6 0 V="4*V(8)*sin(2*3.14159*V(5) + 0.5*sin(2*3.14159*V(5)*2.5))" Rs=1
*B1 6 0 V="tanh(V(8)*sin(2*3.14159*V(5))*2)" Rs=1
*B1 6 0 V="max(-0.8, min(0.8, 2*sin(2*3.14159*V(5))))" Rs=1
*B1 6 0 V="5*V(8)*clamp(2 * (V(5) - floor(V(5) + 0.5)), -1, 1)" Rs=1



.input 1
.output 6
.probe pitch.csv V(1) V(3)